US06545017B1
N′-{4-[4-amino-2-(ethoxymethyl)-7-methyl-1H-imidazo[4,5-c]pyridin-1-yl]butyl}-N-methyl-N-phenylurea
Using the method of Examples 147-164, N-methyl-N-phenylcarbamoyl chloride was reacted with 1-(4-aminobutyl)-2-(ethoxymethyl)-7-methyl-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired compound. The observed accurate mass was 411.2532.

reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
reactant | 1-(4-aminobutyl)-2-(ethoxymethyl)-7-methyl-1H-imidazo[4,5-c]pyridin-4-amine | NCCCCN1C(=NC=2C(=NC=C(C21)C)N)COCC | C14H23N5O
product | N′-{4-[4-amino-2-(ethoxymethyl)-7-methyl-1H-imidazo[4,5-c]pyridin-1-yl]butyl}-N-methyl-N-phenylurea | NC1=NC=C(C2=C1N=C(N2CCCCNC(N(C2=CC=CC=C2)C)=O)COCC)C | C22H30N6O2
